// Generated for: spectre
// Generated on: Oct 15 11:43:37 2022
// Design library name: Ranking_Rebuttal
// Design cell name: adder_2bit_wsplitter4_2inputgatesonly
// Design view name: schematic
simulator lang=spectre
global 0
parameters IA0=0.5m IA1=0 IB0=0.5m IB1=0 ICIN=0.5m VCC=2.6m

// Library name: MITLL_SFQ
// Cell name: jjsh
// View name: schematic
subckt jjsh B T
parameters jjsh_rl=700n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=700n
    R0 (T B) res_r5 l=jjsh_rl w=jjsh_rw rsh=jjsh_rsh
    J0 (T B) model_jj ic_v=0 ic_phase=0 mfactor=1 d=jjsh_d
ends jjsh
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: dcsfq_suny1
// View name: schematic
subckt dcsfq_suny1 IN OUT VCC
    I3 (0 net12) jjsh jjsh_rl=700n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.8u
    I2 (0 net9) jjsh jjsh_rl=1u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.5u
    I1 (net10 net14) jjsh jjsh_rl=1u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.5u
    I0 (net13 net7) jjsh jjsh_rl=1.2u jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.4u
    R0 (VCC net11) res_r5 l=1.75u w=500n rsh=2.0
    L8 (net12 OUT) inductor l=2.11p
    L7 (net11 net12) inductor l=1.74p
    L6 (net13 net9) inductor l=690.00f
    L5 (net10 net9) inductor l=210.00f
    L4 (net7 0) inductor l=3.59p
    L3 (net8 net7) inductor l=1.27p
    L2 (net10 net11) inductor l=1.14p
    L1 (net8 net14) inductor l=1.29p
    L0 (IN net8) inductor l=3.35p
ends dcsfq_suny1
// End of subcircuit definition.

// Library name: MITLL_UCSB
// Cell name: delay1
// View name: schematic
subckt delay1 GND IN OUT VCC
    L3 (net8 OUT) inductor l=2.1p
    L2 (net7 net8) inductor l=2.1p
    L1 (net6 net7) inductor l=2.1p
    L0 (IN net6) inductor l=2.1p
    I2 (GND net8) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I1 (GND net6) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    R0 (VCC net7) res_r5 l=1.85u w=500n rsh=2.0
ends delay1
// End of subcircuit definition.

// Library name: MITLL_UCSB
// Cell name: split4
// View name: schematic
subckt split4 GND IN OUT1 OUT2 VCC
    L5 (net14 OUT2) inductor l=1p
    L4 (net15 OUT1) inductor l=1p
    L3 (net10 net15) inductor l=750.00f
    L2 (net14 net10) inductor l=750.00f
    L1 (net8 net10) inductor l=1p
    L0 (IN net8) inductor l=800.0f
    I3 (net14 GND) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I2 (GND net15) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I1 (GND net8) jjsh jjsh_rl=750n jjsh_rw=800n jjsh_rsh=2.0 jjsh_d=2.15u
    R1 (VCC net8) res_r5 l=1.35u w=500n rsh=2.0
ends split4
// End of subcircuit definition.

// Library name: MITLL_UCSB2
// Cell name: or1_symbol
// View name: schematic
subckt or1_symbol A B CLK GND OUT VCC
    L7 (CLK net26) inductor l=100.0f
    L6 (CLK net27) inductor l=100.0f
    L5 (net20 OUT) inductor l=2p
    L4 (net22 OUT) inductor l=2p
    L3 (net15 net19) inductor l=3.78p
    L2 (net17 net23) inductor l=3.78p
    L1 (net11 net15) inductor l=15.1p
    L0 (net13 net17) inductor l=15.1p
    I21 (net15 net26) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I20 (GND net15) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I19 (net11 B) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.55u
    I18 (GND net19) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I17 (net19 net20) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I16 (net22 net23) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I15 (net23 GND) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I14 (net27 net17) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I13 (net17 GND) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I12 (net13 A) jjsh jjsh_rl=850n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.55u
    I11 (GND net11) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 \
        jjsh_d=1.8u
    I10 (GND net13) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 \
        jjsh_d=1.8u
    R3 (net22 VCC) res_r5 l=4.9u w=500n rsh=2.0
    R2 (net20 VCC) res_r5 l=4.9u w=500n rsh=2.0
    R1 (VCC net11) res_r5 l=3.7u w=500n rsh=2.0
    R0 (VCC net13) res_r5 l=3.7u w=500n rsh=2.0
ends or1_symbol
// End of subcircuit definition.

// Library name: MITLL_UCSB2
// Cell name: and1
// View name: schematic
subckt and1 CLK GND IN1 IN2 OUT VCC
    L8 (net20 OUT) inductor l=1.3p
    L7 (net15 net26) inductor l=4p
    L6 (net17 net27) inductor l=4p
    L5 (net28 CLK) inductor l=2p
    L4 (CLK net37) inductor l=500.0f
    L3 (net11 net15) inductor l=10p
    L2 (net13 net17) inductor l=10p
    L1 (IN2 net29) inductor l=2p
    L0 (IN1 net30) inductor l=2p
    I16 (GND net20) jjsh jjsh_rl=700n jjsh_rw=750n jjsh_rsh=2.0 \
        jjsh_d=2.15u
    I15 (net26 net20) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I14 (net20 net27) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I13 (net15 GND) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 \
        jjsh_d=1.8u
    I12 (GND net17) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 \
        jjsh_d=1.8u
    I11 (net28 net15) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I10 (net17 net37) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I9 (GND net11) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I8 (GND net13) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I7 (net11 net29) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    I6 (net13 net30) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    R2 (VCC net20) res_r5 l=4u w=500n rsh=2.0
    R1 (VCC net11) res_r5 l=5.2u w=500n rsh=2.0
    R0 (VCC net13) res_r5 l=5.2u w=500n rsh=2.0
ends and1
// End of subcircuit definition.

// Library name: MITLL_UCSB2
// Cell name: xor2_symbol
// View name: schematic
subckt xor2_symbol A B CLK GND OUT VCC
    L6 (B net26) inductor l=1p
    L5 (net13 OUT) inductor l=2p
    L4 (net14 net22) inductor l=500.0f
    L3 (net14 net19) inductor l=5.07p
    L2 (net12 net14) inductor l=5.07p
    L1 (CLK net23) inductor l=1.06p
    L0 (A net28) inductor l=1p
    I19 (net22 net13) jjsh jjsh_rl=700n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.7u
    I18 (GND net13) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I17 (net13 net23) jjsh jjsh_rl=700n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.7u
    I16 (net10 net19) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I15 (GND net10) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I14 (net11 net12) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I13 (GND net11) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.5u
    I12 (net10 net26) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 \
        jjsh_d=1.8u
    I11 (net11 net28) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 \
        jjsh_d=1.8u
    R2 (VCC net15) res_r5 l=3u w=500n rsh=2.0
    R1 (net15 net19) res_r5 l=1.5u w=500n rsh=2.0
    R0 (net15 net12) res_r5 l=1.5u w=500n rsh=2.0
ends xor2_symbol
// End of subcircuit definition.

// Library name: MITLL_UCSB2
// Cell name: dff1
// View name: schematic
subckt dff1 A CLK GND OUT VCC
    L6 (net11 OUT) inductor l=2.02p
    L5 (net10 net11) inductor l=1.24p
    L4 (net8 net10) inductor l=2.62p
    L3 (CLK net13) inductor l=2.31p
    L2 (net7 net8) inductor l=8p
    L1 (net6 net7) inductor l=1.59p
    L0 (A net14) inductor l=2.5p
    I7 (GND net11) jjsh jjsh_rl=800n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.65u
    I6 (net8 net13) jjsh jjsh_rl=1u jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.45u
    I5 (GND net8) jjsh jjsh_rl=700n jjsh_rw=550n jjsh_rsh=2.0 jjsh_d=1.8u
    I4 (GND net6) jjsh jjsh_rl=800n jjsh_rw=500n jjsh_rsh=2.0 jjsh_d=1.65u
    I3 (net6 net14) jjsh jjsh_rl=900n jjsh_rw=500n jjsh_rsh=2.0 \
        jjsh_d=1.55u
    R1 (VCC net10) res_r5 l=4.8u w=500n rsh=2.0
    R0 (VCC net7) res_r5 l=2.8u w=500n rsh=2.0
ends dff1
// End of subcircuit definition.

// Library name: MITLL_UCSB2
// Cell name: delay_3cell
// View name: schematic
subckt delay_3cell GND IN OUT VCC
    I2 (GND net9 OUT VCC) delay1
    I1 (GND net10 net9 VCC) delay1
    I0 (GND IN net10 VCC) delay1
ends delay_3cell
// End of subcircuit definition.

// Library name: Ranking_Rebuttal
// Cell name: adder_2bit_wsplitter4_2inputgatesonly
// View name: schematic
I235 (net22 net17 net02) dcsfq_suny1
I230 (net048 net047 net02) dcsfq_suny1
I231 (net27 net21 net02) dcsfq_suny1
I232 (net26 net20 net02) dcsfq_suny1
I233 (net25 net19 net02) dcsfq_suny1
I234 (net24 net18 net02) dcsfq_suny1
I161 (0 S0 net0113 VCC) delay1
I160 (0 net0113 net082 VCC) delay1
I159 (0 net0114 net083 VCC) delay1
I158 (0 S1 net0114 VCC) delay1
I157 (0 net0115 net081 VCC) delay1
I156 (0 Cout net0115 VCC) delay1
I67 (0 net047 net046 VCC) delay1
I68 (0 net046 CIN VCC) delay1
I14 (0 net12 A0 VCC) delay1
I13 (0 net13 B0 VCC) delay1
I12 (0 net14 A1 VCC) delay1
I11 (0 net15 B1 VCC) delay1
I10 (0 net16 CLK VCC) delay1
I9 (0 net17 net16 VCC) delay1
I8 (0 net18 net15 VCC) delay1
I7 (0 net19 net14 VCC) delay1
I6 (0 net20 net13 VCC) delay1
I5 (0 net21 net12 VCC) delay1
I219 (0 net098 CLK3 CLK4 VCC) split4
I220 (0 net0136 CLK1 CLK2 VCC) split4
I221 (0 net0187 CLK16 CLK17 VCC) split4
I224 (0 net0203 CLK22 CLK23 VCC) split4
I223 (0 net0212 CLK20 CLK21 VCC) split4
I226 (0 net079 net0223 net0188 VCC) split4
I228 (0 net0194 net0183 net0226 VCC) split4
I214 (0 net0185 CLK12 CLK13 VCC) split4
I213 (0 net096 CLK14 CLK15 VCC) split4
I218 (0 net0100 CLK5 net0137 VCC) split4
I217 (0 net097 CLK6 CLK7 VCC) split4
I216 (0 net099 CLK8 CLK9 VCC) split4
I215 (0 net0192 CLK10 CLK11 VCC) split4
I222 (0 net0210 CLK18 CLK19 VCC) split4
I225 (0 net0213 net0189 net0190 VCC) split4
I227 (0 net080 net0214 net0186 VCC) split4
I175 (0 net063 net0187 net0210 VCC) split4
I174 (0 net0201 net0212 net0203 VCC) split4
I173 (0 net0199 net0213 net079 VCC) split4
I172 (0 net0195 net080 net0194 VCC) split4
I171 (0 net0202 net0185 net096 VCC) split4
I170 (0 net0206 net099 net0192 VCC) split4
I169 (0 net0205 net0100 net097 VCC) split4
I168 (0 net0196 net0136 net098 VCC) split4
I167 (0 net0211 net0199 net0195 VCC) split4
I166 (0 net0209 net063 net0201 VCC) split4
I165 (0 net0208 net0206 net0202 VCC) split4
I164 (0 net0102 net0196 net0205 VCC) split4
I163 (0 net83 net0209 net0211 VCC) split4
I162 (0 net82 net0102 net0208 VCC) split4
I148 (0 net064 net068 net067 VCC) split4
I126 (0 CIN net094 net0117 VCC) split4
I89 (0 B1 net043 net0107 VCC) split4
I137 (0 net093 net091 net060 VCC) split4
I138 (0 net092 net061 net059 VCC) split4
I90 (0 A1 net0101 net0108 VCC) split4
I145 (0 net090 net066 net069 VCC) split4
I19 (0 CLK net82 net83 VCC) split4
I146 (0 net089 net070 net065 VCC) split4
I147 (0 net088 net071 net064 VCC) split4
I16 (0 B0 net115 net028 VCC) split4
I15 (0 A0 net023 net99 VCC) split4
I153 (net078 net077 CLK3 0 Cout VCC) or1_symbol
I151 (net0139 net0138 CLK6 0 net078 VCC) or1_symbol
I140 (net066 net070 CLK9 0 net0181 VCC) or1_symbol
I130 (CLK21 0 net99 net028 net058 VCC) and1
I131 (CLK23 0 net0108 net0107 net056 VCC) and1
I133 (CLK15 0 net060 net059 net090 VCC) and1
I142 (CLK11 0 net068 net065 net074 VCC) and1
I143 (CLK12 0 net067 net069 net073 VCC) and1
I150 (A0andB0or\-\-A0xorB0\-andCIN\- A1xorB1 CLK5 0 net084 VCC) \
        xor2_symbol
I128 (net023 net115 CLK20 0 net092 VCC) xor2_symbol
I129 (net0101 net043 CLK22 0 net057 VCC) xor2_symbol
I132 (net091 net061 CLK14 0 net087 VCC) xor2_symbol
I155 (net085 CLK1 0 S0 VCC) dff1
I154 (net084 CLK2 0 S1 VCC) dff1
I152 (net0145 CLK7 0 net077 VCC) dff1
I149 (net0149 CLK4 0 net085 VCC) dff1
I127 (net094 CLK19 0 net093 VCC) dff1
I134 (net058 CLK16 0 net089 VCC) dff1
I135 (net057 CLK17 0 net088 VCC) dff1
I136 (net056 CLK18 0 net062 VCC) dff1
I139 (net0229 CLK8 0 net086 VCC) dff1
I141 (net0128 CLK10 0 net0184 VCC) dff1
I144 (net062 CLK13 0 net072 VCC) dff1
V1 (net02 0) vsource type=pwl wave=[ 0 0 1p VCC ]
V0 (VCC 0) vsource type=pwl wave=[ 0 0 1p VCC ]
I61 (0 net22) isource type=pulse val0=0 val1=500.0u period=100p delay=50p \
        rise=20p fall=20p width=10p
I60 (0 net25) isource type=pulse val0=0 val1=IA1 period=1.2n delay=160p \
        rise=20p fall=20p width=10p
I59 (0 net24) isource type=pulse val0=0 val1=IB1 period=1n delay=160p \
        rise=20p fall=20p width=10p
I58 (0 net26) isource type=pulse val0=0 val1=IB0 period=1n delay=160p \
        rise=20p fall=20p width=10p
I57 (0 net27) isource type=pulse val0=0 val1=IA0 period=1n delay=160p \
        rise=20p fall=20p width=10p
I66 (0 net048) isource type=pulse val0=0 val1=ICIN period=1n delay=160p \
        rise=20p fall=20p width=10p
I212 (0 net073 net0138 VCC) delay_3cell
I211 (0 net074 net0139 VCC) delay_3cell
I210 (0 net086 net0149 VCC) delay_3cell
I209 (0 net072 net0145 VCC) delay_3cell
I204 (0 net0181 A0andB0or\-\-A0xorB0\-andCIN\- VCC) delay_3cell
I203 (0 net0184 A1xorB1 VCC) delay_3cell
I202 (0 net071 net0128 VCC) delay_3cell
I229 (0 net087 net0229 VCC) delay_3cell
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=800p start=0 step=0.1p maxstep=0.5p minstep=0.05p \
    write="spectre.ic" writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
